US04590187
2-Amino-5-chloro-α-methylbenzhydrol (conversion of A-1 to A-2).
Methylmagnesium bromide (267 ml of 3M ether-solution; 0.8 mole) is added during 45 minutes to a solution of 2-amino-5-chlorobenzophenone (46.3 g; 0.2 mole) in 1 liter of ether. The mixture is refluxed for 5 hours and allowed to stand overnight. It is then cooled in ice and decomposed with 400 ml of water. The ether layer is decanted, washed with saturated salt solution dried (MgSO4) and evaporated. The residue is crystallized from ether-Skellysolve B to give 37.1 g (75% yield), mp 93°-94° C., unchanged on recrystallization. Spectral data support the product structure.

reactant | Methylmagnesium bromide | 0.8 mole, 3M, 267 ml | C[Mg]Br
reactant | 2-amino-5-chlorobenzophenone | 0.2 mole, 46.3 g | NC1=C(C(=O)C2=CC=CC=C2)C=C(C=C1)Cl | C13H10ClNO
reactant | water | 400 ml | O | H2O
solvent | ether | 1 liter | CCOCC | C4H10O
product | 2-Amino-5-chloro-α-methylbenzhydrol | 75% yield | NC1=C(C(C2=CC=CC=C2)(O)C)C=C(C=C1)Cl | C14H14ClNO
